US05286721
To a solution of (2S)-1-(N-allyloxycarbonyl-N-methylamino)-2-(allyloxycarbonylaminomethyl)butan-3-one (14.59 g) in dichloromethane (110 ml) were added N-ethylpiperidine (13.5 ml) and trimethylsilyl trifluoromethanesulfonate (18.9 ml) at -10° C. and the resulting mixture was stirred at ambient temperature for 1 hour. To a solution of (3R,4R)-4-acetoxy-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-azetidinone (21.1 g) in dichloromethane (140 ml) were added N-ethylpiperidine (10.1 ml) and trimethylsilyl trifluoromethanesulfonate (14.2 ml) at -20° C. and the mixture was stirred at 0° C. for 1 hour. To a mixture of the latter solution and zinc bromide (44.05 g) was added the former solution at 0° C. and the resulting mixture was allowed to stir at ambient temperature for 2 hours. The reaction mixture was diluted with a mixture of water (800 ml) and ethyl acetate (800 ml). After adjusting pH to 0.7 with hydrochloric acid (6N), the mixture was allowed to stir at ambient temperature for 2 hours. The separated organic layer was washed in turn with water and brine. After adjusting pH to 7 with aqueous sodium hydrogen carbonate, the organic layer was washed with brine, dried over magnesium sulfate. Evaporation of the solvent gave a residue which was chromatographed on silica gel (1.5 l) eluting with a mixture of n-hexane and ethyl acetate (9:1-2:8, V/V) to give (3S,4R)-4-[(3S)-4-(N-allyloxycarbonyl-N-methylamino)-3-(allyloxycarbonylaminomethyl)-2-oxobutyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (19.42 g).

reactant | (2S)-1-(N-allyloxycarbonyl-N-methylamino)-2-(allyloxycarbonylaminomethyl)butan-3-one | 14.59 g | C(C=C)OC(=O)N(C)C[C@@H](C(C)=O)CNC(=O)OCC=C | C14H22N2O5
reactant | N-ethylpiperidine | 13.5 ml | C(C)N1CCCCC1 | C7H15N
reactant | trimethylsilyl trifluoromethanesulfonate | 18.9 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-azetidinone | 21.1 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | N-ethylpiperidine | 10.1 ml | C(C)N1CCCCC1 | C7H15N
reactant | trimethylsilyl trifluoromethanesulfonate | 14.2 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | water | 800 ml | O | H2O
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc bromide | 44.05 g | [Br-].[Zn+2].[Br-]
product | (3S,4R)-4-[(3S)-4-(N-allyloxycarbonyl-N-methylamino)-3-(allyloxycarbonylaminomethyl)-2-oxobutyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 19.42 g | C(C=C)OC(=O)N(C)C[C@@H](C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)CNC(=O)OCC=C | C25H43N3O7Si
